US06693108B2
3-Methyl-5-phenyl-isoxazole-4-carbonitrile (Compound 24).
To an ethyl alcohol solution of benzoylacetonitrile was added 1.5 eq of triethyl amine, followed by 1.5 eq of acetylchloride oxime, the reaction mixture was stirred at r.t. for 4 hours. To the reaction mixture was added ethyl acetate and brine. The organic phase was dried with magnesium sulfate and the solvent was removed under reduced pressure. After chromatographic purification the title compound was obtained in 72% yield.

reactant | ethyl alcohol | C(C)O | C2H6O
reactant | benzoylacetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | triethyl amine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | acetylchloride oxime | 1.5 eq | C(C)(Cl)=NO | C2H4ClNO
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-5-phenyl-isoxazole-4-carbonitrile | 72% yield | CC1=NOC(=C1C#N)C1=CC=CC=C1 | C11H8N2O
